US07365193B2
(R)-3-(5,5-Dioxo-5H-5λ6-dibenzothiophen-3-yloxy)-1-aza-bicyclo[2.2.2]octane
A mixture of 3,7-dibromodibenzothiophene-5,5-dioxide (0.60 g, 1.75 mmol; see J. Med. Chem. 1978, 21, 1084), (R)-(−)-quinuclidin-3-ol (280 mg, 2.2 mmol; Acros), copper(I) iodide (33 mg, 0.17 mmol; Aldrich), 1,10-phenanthroline (63 mg, 0.35 mol; Aldrich) and powdered cesium carbonate (0.86 g, 2.64 mmol; Aldrich) in toluene (2 mL) was heated to 110° C. with vigorous stirring for 30 h. After cooling to room temperature, the reaction mixture was filtered through diatomaceous earth, rinsing with ethyl acetate and dichloromethane, and the residue purified by flash chromatography (80 g silica gel, 1:10:89 NH4OH-MeOH-CH2Cl2) to afford the title compound (0.23 g, 0.67 mmol; 38% yield): MS (DCl/NH3): m/z 342 (M+1)+.

reactant | 3,7-dibromodibenzothiophene-5,5-dioxide | 1.75 mmol, 0.60 g | BrC=1C=CC2=C(S(C3=C2C=CC(=C3)Br)(=O)=O)C1 | C12H6Br2O2S
reactant | (R)-(−)-quinuclidin-3-ol | 2.2 mmol, 280 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | 1,10-phenanthroline | 0.35 mol, 63 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | cesium carbonate | 2.64 mmol, 0.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.17 mmol, 33 mg | [Cu]I
product | (R)-3-(5,5-Dioxo-5H-5λ6-dibenzothiophen-3-yloxy)-1-aza-bicyclo[2.2.2]octane | 0.67 mmol, 0.23 g, 38% yield | O=S1(C2=C(C3=C1C=CC=C3)C=CC(=C2)O[C@H]2CN3CCC2CC3)=O | C19H19NO3S
